US05990133
Phenyl N-[3-ethyl-5-(pyrid-3-yl)phenyl]carbamate (D30)
The title compound (0.276 g, 0.87 mmol) was prepared by the methodology of description 67, using 3-ethyl-5-(pyrid-3-yl)aniline, phenyl chloroformate (0.13 ml, 0.96 mmol) and triethylamine (0.13 ml, 0.96 mmol) in dichloromethane (10 ml)

reactant | 3-ethyl-5-(pyrid-3-yl)aniline | C(C)C=1C=C(N)C=C(C1)C=1C=NC=CC1 | C13H14N2
reactant | phenyl chloroformate | 0.96 mmol, 0.13 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 0.96 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Phenyl N-[3-ethyl-5-(pyrid-3-yl)phenyl]carbamate | 0.87 mmol, 0.276 g | C(C)C=1C=C(C=C(C1)C=1C=NC=CC1)NC(OC1=CC=CC=C1)=O | C20H18N2O2
